US05895635
It is the primary object of the present invention to provide the process for the recovery or regeneration of ammonia contained in the effluent from a reactor zone where an ammonia, oxygen and propane/isobutane are reacted to produce acrylonitrile/methacrylonitrile.

reactant | ammonia | N | H3N
reactant | oxygen | O=O | O2
reactant | propane isobutane | CCC.CC(C)C
product | acrylonitrile methacrylonitrile | C(C=C)#N.C(C(=C)C)#N | InChI=1S/C4H5N.C3H3N/c1-4(2)3-5;1-2-3-4/h1H2,2H3;2H,1H2
